US08703953B2
To a stirred solution of N-(4-(4-chloro-2-fluorophenyl)-5-(hydroxymethyl)pyridin-2-yl)acetamide (9 g, 23.82 mmol) in DMF (90 mL) was added potassium carbonate (9.88 g, 71.5 mmol) and the resultant mixture was sealed tightly and heated at 95° C. for 16 h. The reaction mixture was then cooled to room temperature and volatiles were removed under reduced pressure. The crude material was taken up in water (200 mL) and filtered. The residue was washed with water (2×250 mL) and dried under reduced pressure for 16 h to afford N-(8-chloro-5H-chromeno[3,4-c]pyridin-2-yl)acetamide (5.5 g, 20.02 mmol, 84% yield) as a pale brown solid. LCMS (ESI) m/e 275.2 [(m)−, calcd for C14H12ClN2O2275.1] LC/MS retention time (method D): tR=1.77 min; 1H NMR (400 MHz, DMSO-d6) δ 10.6 (s, 1 H), 8.41 (s, 1 H), 8.25 (s, 1 H), 7.78 (d, J=8.4 Hz, 1 H), 7.22-7.15 (m, 2 H), 5.2 (s, 2 H), 2.2 (s, 3 H).

reactant | N-(4-(4-chloro-2-fluorophenyl)-5-(hydroxymethyl)pyridin-2-yl)acetamide | 23.82 mmol, 9 g | ClC1=CC(=C(C=C1)C1=CC(=NC=C1CO)NC(C)=O)F | C14H12ClFN2O2
reactant | potassium carbonate | 71.5 mmol, 9.88 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 90 mL | CN(C)C=O | C3H7NO
product | N-(8-chloro-5H-chromeno[3,4-c]pyridin-2-yl)acetamide | 20.02 mmol, 5.5 g, 84% yield | ClC=1C=CC2=C(C1)OCC1=CN=C(C=C12)NC(C)=O | C14H11ClN2O2
